US07056935B2
2-Phenyl-1-ethyl (2S)-1-(3,3-dimethyl-1,2-dioxopentyl)-2-pyrrolidinecarboxylate.
A mixture of (2S)-1-(1,2-dioxo-3,3-dimethylpentyl)-2-pyrrolidine-carboxylic acid (570 mg; 2.36 mmol), phenethyl alcohol (432 mg; 3.54 mmol), dicyclohexylcarbodiimide (780 mg; 3.78 mmol), 4-dimethylaminopyridine (98 mg; 0.79 mmol) and camphorsulphonic acid (183 mg; 0.79 mmol) in methylene chloride (30 mL) was stirred overnight under a nitrogen atmosphere. The reaction mixture was filtered through Celite to remove solids and concentrated in vacuo, and the crude material was purified on a flash column (25% ethyl acetate in hexane) to obtain 600 mg of the product as a colorless oil. 1H NMR (CDCl3; 300 MHz) δ0.87 (t, 3H); 1.21 (s, 3H); 1.25 (s, 3H); 1.64–1.94 (m, 6H); 2.17 (m, 1H); 2.97 (m, 2H); 3.49 (m, 2H); 4.36 (m, 2H); 4.51 (m, 1H); 7.22–7.33 (m, 5H).

reactant | (2S)-1-(1,2-dioxo-3,3-dimethylpentyl)-2-pyrrolidine-carboxylic acid | 2.36 mmol, 570 mg | O=C(C(C(CC)(C)C)=O)N1[C@@H](CCC1)C(=O)O | C12H19NO4
reactant | phenethyl alcohol | 3.54 mmol, 432 mg | C(CC1=CC=CC=C1)O | C8H10O
reactant | dicyclohexylcarbodiimide | 3.78 mmol, 780 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | camphorsulphonic acid | 0.79 mmol, 183 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
catalyst | 4-dimethylaminopyridine | 0.79 mmol, 98 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-Phenyl-1-ethyl (2S)-1-(3,3-dimethyl-1,2-dioxopentyl)-2-pyrrolidinecarboxylate | 600 mg | CC(C(C(=O)N1[C@@H](CCC1)C(=O)OCCC1=CC=CC=C1)=O)(CC)C | C20H27NO4
